US06559091B1
A suspension of NaH (60% in mineral oil, 323 mg, 8.07 mmol) in toluene (20 mL) was treated with 3-Naphthalen-1-yl-3-oxo-propionic acid ethyl ester (1.63 g, 6.7 mmol). The resulting suspension was stirred at rt under Ar for 1 h, then treated with 2-bromocetophenone (1.61 g, 8.07 mmol). The suspension was immersed in a 70° C. oil bath and stirred under Ar for 4 h, cooled to rt, diluted with toluene and washed with H2O and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified via flash chromatography (SiO2, 10-20% EtOAc/Heptane) to afford 2-(Naphthalene-1-carbonyl)-4-oxo-4-phenyl-butyric acid ethyl ester (1.2 g) contaminated with a small amount of unidentified aromatic impurity: 11H NMR (CDCl3, chemical shifts in ppm relative to TMS): 1.03 (t, 3H, J=7.25Hz), 3.72 (dd, 1H, J=18.8 Hz, J=5.4 Hz), 3.96 (dd, 1H, J=18.8 Hz, J=8.05 Hz), 4.09 (m, 2H), 5.16 (m, 1H), 7.45-7.63 (m, 6H), 7.88 (d, 1H, J=7.9 Hz), 8.0-8.07 (m, 3H), 8.24 (d, 1H, J=7.2 Hz)), 8,48 (d, 1H, J=8.7 Hz).

reactant | NaH | 8.07 mmol, 323 mg | [H-].[Na+]
reactant | 3-Naphthalen-1-yl-3-oxo-propionic acid ethyl ester | 6.7 mmol, 1.63 g | C(C)OC(CC(=O)C1=CC=CC2=CC=CC=C12)=O | C15H14O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Naphthalene-1-carbonyl)-4-oxo-4-phenyl-butyric acid ethyl ester | 1.2 g | C(C)OC(C(CC(C1=CC=CC=C1)=O)C(=O)C1=CC=CC2=CC=CC=C12)=O | C23H20O4
